US07598257B2
Step 2: trans-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexyl methanesulfonate
To trans-4-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexanol (154 mg, 0.372 mmol) was added DCM (1.0 mL) and TEA (73 μL, 0.52 mmol). The resulting solution was then cooled to 0° C. and methanesulfonyl chloride (34 μL, 0.45 mmol) was added. The reaction was held for 2 hours, at which point tlc and LCMS indicated complete reaction. The reaction was partitioned between water and DCM, the phases were separated and the aqueous phase was extracted with additional solvent. The combined organic phase was washed with water, then saturated NaCl, then was dried over MgSO4 and reduced in vacuo to give the crude product which was used without further purification (173 mg, 95%). 1H NMR (400 MHz, CDCl3): δ 8.83 (s, 1H), 8.24 (s, 2H), 8.24 (s, 1H), 7.39 (d, 1H), 6.80 (d, 1H), 5.67 (s, 2H), 4.77 (m, 1H), 4.27 (m, 1H), 3.54 (m, 2H), 3.06 (s, 3H), 2.36 (m, 4H), 2.03 (m, 2H), 1.82 (m, 2H), 1.53 (m, 2H), 0.92 (m, 2H), −0.06 (s, 9H). MS (EI) m/z=492.1 (M+H).

reactant | trans-4-[4-(7-[2-(trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexanol | 0.372 mmol, 154 mg | C[Si](CCOCN1C=CC2=C1N=CN=C2C=2C=NN(C2)[C@@H]2CC[C@H](CC2)O)(C)C | C21H31N5O2Si
reactant | methanesulfonyl chloride | 0.45 mmol, 34 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 1.0 mL | C(Cl)Cl | CH2Cl2
product | trans-4-[4-(7-[2-(Trimethylsilyl)ethoxy]methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]cyclohexyl methanesulfonate | CS(=O)(=O)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C22H33N5O4SSi
